US08124600B2
Following general procedure CP-H, lithium (S)-1-methyl-3-((quinuclidin-3-ylamino)methyl)-1H-indazole-4-carboxylate was converted to (S)-2-methyl-7-(quinuclidin-3-yl)-7,8-dihydropyrazolo[3,4,5-de]isoquinolin-6(2H)-one, which was immediately and treated with hydrochloric acid following general procedure GP-I to give (S)-2-methyl-7-(quinuclidin-3-yl)-7,8-dihydropyrazolo[3,4,5-de]isoquinolin-6(2H)-one, hydrochloride salt (40 mg, 83%) as an off-white solid: 1H NMR (500 MHz, DMSO-d6) δ 10.01 (s, 1H), 7.76 (d, J=8.3 Hz, 1H), 7.53 (t, J=7.2 Hz, 1H), 7.44 (d, J=6.9 Hz, 1H), 5.26 (d, J=16.7 Hz, 1H), 5.14 (d, J=16.8 Hz, 1H), 4.77 (t, J=7.0 Hz, 1H), 4.09 (s, 3H), 3.72-3.70 (m, 1H), 3.56-3.47 (m, 2H), 3.40-3.28 (m, 3H), 3.23-3.21 (m, 1H), 2.22-2.19 (m, 1H), 2.00-1.84 (m, 3H); MS (ESI+) m/z 297 (M+H); HPLC 98.3% (AUC), tR 13.35 min.

reactant | lithium (S)-1-methyl-3-((quinuclidin-3-ylamino)methyl)-1H-indazole-4-carboxylate | CN1N=C(C=2C(=CC=CC12)C(=O)[O-])CN[C@@H]1CN2CCC1CC2.[Li+]
reactant | (S)-2-methyl-7-(quinuclidin-3-yl)-7,8-dihydropyrazolo[3,4,5-de]isoquinolin-6(2H)-one | CN1N=C2C3=C1C=NC=C3C([C@@H](C2)C2CN3CCC2CC3)=O | C17H20N4O
reactant | hydrochloric acid | Cl | ClH
product | (S)-2-methyl-7-(quinuclidin-3-yl)-7,8-dihydropyrazolo[3,4,5-de]isoquinolin-6(2H)-one, hydrochloride salt | 40 mg, 83% | Cl.CN1N=C2C3=C1C=NC=C3C([C@@H](C2)C2CN3CCC2CC3)=O | InChI=1S/C17H20N4O.ClH/c1-20-15-8-18-7-12-16(15)14(19-20)6-11(17(12)22)13-9-21-4-2-10(13)3-5-21;/h7-8,10-11,13H,2-6,9H2,1H3;1H/t11-,13?;/m0./s1
